US08278343B2
Preparation 50: 3-[4-(5-Chloro-pyridin-2-yl)-phenoxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 4-(5-chloro-pyridin-2-yl)-phenol (Preparation 17) and 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 15) to afford the racemate as a white solid (133 mg, 54.7%)

reactant | 4-(5-chloro-pyridin-2-yl)-phenol | ClC=1C=CC(=NC1)C1=CC=C(C=C1)O | C11H8ClNO
reactant | 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CI | C16H20INO4
product | 3-[4-(5-Chloro-pyridin-2-yl)-phenoxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)COC1=CC=C(C=C1)C1=NC=C(C=C1)Cl | C27H27ClN2O5
